* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : AND4                                         *
* Netlisted  : Fri Apr 24 21:50:32 2026                     *
* Pegasus Version: 23.23-s012 Wed May 29 16:54:16 PDT 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777081827290                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777081827290 1 2 3
*.DEVICECLIMB
** N=4 EP=3 FDC=1
M0 3 2 1 1 g45p1svt L=4.5e-08 W=3.2e-07 AD=1.92e-14 AS=5.28e-14 PD=7.6e-07 PS=1.02e-06 fw=3.2e-07 sa=5.65e-07 sb=2.45e-07 sca=11.8824 scb=0.00974017 scc=0.000174559 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777081827290

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777081827291                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777081827291 1 2 3
*.DEVICECLIMB
** N=4 EP=3 FDC=1
M0 1 2 3 3 g45p1svt L=4.5e-08 W=1.6e-07 AD=2.56e-14 AS=2.56e-14 PD=6.4e-07 PS=6.4e-07 fw=1.6e-07 sa=5.5e-07 sb=6.85e-07 sca=7.65521 scb=0.00237708 scc=3.68538e-06 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777081827291

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777081827292                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777081827292 1 2 3
** N=3 EP=3 FDC=1
M0 3 2 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.68e-14 PD=5.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=3.45e-07 sca=5.05241 scb=0.000962138 scc=1.23864e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777081827292

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777081827294                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777081827294 1 2 3
** N=4 EP=3 FDC=1
M0 1 3 2 2 g45p1svt L=4.5e-08 W=1.6e-07 AD=2.56e-14 AS=2.24e-14 PD=6.4e-07 PS=6e-07 fw=1.6e-07 sa=1.4e-07 sb=1.095e-06 sca=16.1679 scb=0.016356 scc=0.000732607 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777081827294

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777081827296                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777081827296 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 2 3 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=1.44e-14 PD=7.6e-07 PS=6e-07 fw=2.4e-07 sa=5.55e-07 sb=1.4e-07 sca=5.02182 scb=0.0010625 scc=2.06688e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777081827296

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777081827297                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777081827297 1 2 3
** N=4 EP=3 FDC=1
M0 3 2 1 1 g45p1svt L=4.5e-08 W=1.6e-07 AD=2.56e-14 AS=2.56e-14 PD=6.4e-07 PS=6.4e-07 fw=1.6e-07 sa=8.9e-07 sb=3.45e-07 sca=9.06918 scb=0.004814 scc=2.35292e-05 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777081827297

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777081827298                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777081827298 1 2 3 5
** N=5 EP=4 FDC=1
M0 1 2 3 5 g45p1svt L=4.5e-08 W=3.2e-07 AD=4.48e-14 AS=1.92e-14 PD=9.2e-07 PS=7.6e-07 fw=3.2e-07 sa=6.7e-07 sb=1.4e-07 sca=17.8105 scb=0.0184609 scc=0.0010189 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777081827298

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777081827299                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777081827299 1 2 3
*.DEVICECLIMB
** N=3 EP=3 FDC=1
M0 3 2 1 1 g45n1svt L=4.5e-08 W=2.4e-07 AD=1.44e-14 AS=3.84e-14 PD=6e-07 PS=8e-07 fw=2.4e-07 sa=4.5e-07 sb=2.45e-07 sca=5.02182 scb=0.0010625 scc=2.06688e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777081827299

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_7770818272910                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_7770818272910 1 2 3
** N=3 EP=3 FDC=1
M0 1 3 2 2 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.68e-14 PD=5.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=3.45e-07 sca=5.05241 scb=0.000962138 scc=1.23864e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_7770818272910

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND4                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND4 A B C D gnd! out vdd!
** N=12 EP=7 FDC=12
X5 vdd! 5 7 pmos1v_CDNS_777081827290 $T=2220 3580 0 0 $X=1800 $Y=3380
X6 5 C vdd! pmos1v_CDNS_777081827291 $T=1340 3580 0 0 $X=1100 $Y=3380
X7 gnd! 5 out nmos1v_CDNS_777081827292 $T=2070 1020 0 0 $X=1650 $Y=820
X8 10 vdd! A pmos1v_CDNS_777081827294 $T=520 3580 0 0 $X=100 $Y=3380
X9 10 A 11 gnd! nmos1v_CDNS_777081827296 $T=520 900 1 180 $X=10 $Y=700
X10 5 D 12 gnd! nmos1v_CDNS_777081827296 $T=1260 900 0 0 $X=1060 $Y=700
X11 vdd! B 10 pmos1v_CDNS_777081827297 $T=1020 3580 1 180 $X=690 $Y=3380
X12 out 10 7 vdd! pmos1v_CDNS_777081827298 $T=2430 3580 0 0 $X=2230 $Y=3380
X13 gnd! B 11 nmos1v_CDNS_777081827299 $T=730 900 1 180 $X=440 $Y=700
X14 out gnd! 10 nmos1v_CDNS_7770818272910 $T=2570 1020 1 180 $X=2120 $Y=820
M0 12 C gnd! gnd! g45n1svt L=4.5e-08 W=2.4e-07 AD=1.44e-14 AS=3.84e-14 PD=6e-07 PS=8e-07 fw=2.4e-07 sa=4.5e-07 sb=2.45e-07 sca=5.02182 scb=0.0010625 scc=2.06688e-06 $X=1050 $Y=900 $dt=0
M1 vdd! D 5 vdd! g45p1svt L=4.5e-08 W=1.6e-07 AD=5.28e-14 AS=2.56e-14 PD=1.02e-06 PS=6.4e-07 fw=1.6e-07 sa=7.55e-07 sb=4.8e-07 sca=7.99456 scb=0.00292289 scc=5.67371e-06 $X=1750 $Y=3580 $dt=1
.ends AND4
