* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : NOR3                                         *
* Netlisted  : Fri Apr 24 22:31:07 2026                     *
* Pegasus Version: 23.23-s012 Wed May 29 16:54:16 PDT 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777084263041                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777084263041 1 2 3
** N=3 EP=3 FDC=1
M0 3 2 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.68e-14 PD=5.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=5.5e-07 sca=5.15732 scb=0.00107852 scc=1.63215e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777084263041

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777084263042                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777084263042 1 2 3
*.DEVICECLIMB
** N=4 EP=3 FDC=1
M0 3 2 1 1 g45p1svt L=4.5e-08 W=4.8e-07 AD=2.88e-14 AS=6.72e-14 PD=1.08e-06 PS=1.24e-06 fw=4.8e-07 sa=1.4e-07 sb=3.5e-07 sca=15.8234 scb=0.0153459 scc=0.000397142 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777084263042

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_777084263043                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_777084263043 1 2 3 5
*.DEVICECLIMB
** N=5 EP=4 FDC=1
M0 1 2 3 5 g45p1svt L=4.5e-08 W=4.8e-07 AD=6.72e-14 AS=2.88e-14 PD=1.24e-06 PS=1.08e-06 fw=4.8e-07 sa=3.5e-07 sb=1.4e-07 sca=13.1858 scb=0.0103003 scc=0.000125622 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_777084263043

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777084263044                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777084263044 1 2 3
** N=3 EP=3 FDC=1
M0 1 3 2 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.68e-14 PD=5.6e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=5.5e-07 sca=5.15732 scb=0.00107852 scc=1.63215e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777084263044

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_777084263045                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_777084263045 1 2 3
** N=3 EP=3 FDC=1
M0 1 2 3 3 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.92e-14 AS=1.92e-14 PD=5.6e-07 PS=5.6e-07 fw=1.2e-07 sa=3.45e-07 sb=3.45e-07 sca=5.15732 scb=0.00107852 scc=1.63215e-06 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_777084263045

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NOR3                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NOR3 A B C gnd! out vdd!
** N=8 EP=6 FDC=6
X3 gnd! A out nmos1v_CDNS_777084263041 $T=420 1050 0 0 $X=0 $Y=850
X4 vdd! A 7 pmos1v_CDNS_777084263042 $T=620 3090 0 0 $X=200 $Y=2890
X5 out C 8 vdd! pmos1v_CDNS_777084263043 $T=1040 3090 0 0 $X=840 $Y=2890
X6 gnd! out C nmos1v_CDNS_777084263044 $T=1330 1050 1 180 $X=880 $Y=850
X7 out B gnd! nmos1v_CDNS_777084263045 $T=920 1050 1 180 $X=470 $Y=850
M0 8 B 7 vdd! g45p1svt L=4.5e-08 W=4.8e-07 AD=2.88e-14 AS=2.88e-14 PD=1.08e-06 PS=1.08e-06 fw=4.8e-07 sa=2.45e-07 sb=2.45e-07 sca=13.3655 scb=0.0106787 scc=0.000138297 $X=830 $Y=3090 $dt=1
.ends NOR3
